US04963566
To a solution of 4-(N-formyl-N-cyclopropylamino)-8-hydroxymethyl-1-ethyl-1,2,3,4-tetrahydroquinoline (0.34 g) in tetrahydrofuran (10 ml), lithium aluminum hydride (0.10 g) was added under ice-cooling and the mixture was refluxed gently for 1.5 hours. A saturated aqueous solution of Rochelle salt was added to the reaction mixture under ice-cooling, followed by addition of diethyl ether, the mixture was stirred for 1 hour at room temperature. After filtering off the precipitates, the organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled off to give 4-(N-methyl-N-cyclopropylamino)-8-hydroxymethyl-1-ethyl-1,2,3,4-tetrahydroquinoline (0.30 g).

reactant | 4-(N-formyl-N-cyclopropylamino)-8-hydroxymethyl-1-ethyl-1,2,3,4-tetrahydroquinoline | 0.34 g | C(=O)N(C1CC1)C1CCN(C2=C(C=CC=C12)CO)CC | C16H22N2O2
reactant | lithium aluminum hydride | 0.10 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Rochelle salt | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-(N-methyl-N-cyclopropylamino)-8-hydroxymethyl-1-ethyl-1,2,3,4-tetrahydroquinoline | 0.30 g | CN(C1CC1)C1CCN(C2=C(C=CC=C12)CO)CC | C16H24N2O
